US04045576
Calcium-2-amino-3-benzoylphenylacetic Acid Dihydrate.
A stirred solution of 5 g. of sodium 2-amino-3-benzoylphenylacetate hydrate (0.02 mole) in 50 ml. of water was treated with 1.2 g. of calcium chloride (0.01 mole) in 10 ml. of water. An immediate precipitate developed. After an additional 15 min. stirring the precipitate was collected. Recrystallization from ethanol-water gave bright yellow needles which melted over the broad range of 160°-240° C. (dec.).

reactant | sodium 2-amino-3-benzoylphenylacetate hydrate | 0.02 mole | O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)[O-].[Na+]
reactant | calcium chloride | 0.01 mole | [Cl-].[Ca+2].[Cl-]
solvent | water | O | H2O
product | Calcium 2-amino-3-benzoylphenylacetic Acid Dihydrate | [Ca].O.O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | InChI=1S/C15H13NO3.Ca.2H2O/c16-14-11(9-13(17)18)7-4-8-12(14)15(19)10-5-2-1-3-6-10;;;/h1-8H,9,16H2,(H,17,18);;2*1H2
